US04968800
To a solution of platinum (II) potassium chloride (12.2 g) in water (800 ml) is added (3RS)-3-aminopyrrolidine (2.5 g), and the mixture is stirred at room temperature for 19 hours. The precipitated solid is removed by filtration, and the filtrate is concentrated under reduced pressure. To the residue is added a small amount of water, and the resulting crystals are separated by filtration and washed with water and acetone to give cis-dichloro-(3RS)-3-aminopyrrolidine platinum (II) (6.9 g) as pale yellow crystal.

reactant | platinum (II) potassium chloride | 12.2 g | [Cl-].[K+].[Pt+2].[Cl-].[Cl-]
reactant | (3RS)-3-aminopyrrolidine | 2.5 g | NC1CNCC1 | C4H10N2
solvent | water | 800 ml | O | H2O
product | cis-dichloro-(3RS)-3-aminopyrrolidine platinum (II) | 6.9 g | [Pt+2].Cl[C@@H]1N(CC[C@@H]1N)Cl | InChI=1S/C4H8Cl2N2.Pt/c5-4-3(7)1-2-8(4)6;/h3-4H,1-2,7H2;/q;+2/t3-,4+;/m0./s1
